US07220856B2
Preparation of 2-Acetylamino-7-chloro-4-[4-(4-fluorophenylaminocarbonyl)piperazin-1-yl]quinoline
2-tert-Butoxycarbonylamino-7-chloro-4-[4-(4-fluorophenylaminocarbonyl)piperazin-1-yl]quinoline (110 mg, 0.22 mmol) in CH2Cl2 (1 mL) is treated with trifluoroacetic acid (1 mL) for 2 h at room temp. The reaction mixture is concentrated. The residue is dissolved in CH2Cl2 (9 mL). Triethylamine (154 μL, 1.1 mmol), acetyl chloride (26 μL, 0.24 mmol), and DMAP (10 mg) are added. The reaction mixture is stirred at room temp. for 3 h, washed with water, dried (MgSO4), and concentrated. Purification of the residue by column chromatography with CH2Cl2-MeOH affords the title product.

reactant | 2-tert-Butoxycarbonylamino-7-chloro-4-[4-(4-fluorophenylaminocarbonyl)piperazin-1-yl]quinoline | 0.22 mmol, 110 mg | C(C)(C)(C)OC(=O)NC1=NC2=CC(=CC=C2C(=C1)N1CCN(CC1)C(=O)NC1=CC=C(C=C1)F)Cl | C25H27ClFN5O3
reactant | trifluoroacetic acid | 1 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | Triethylamine | 1.1 mmol, 154 μL | C(C)N(CC)CC | C6H15N
reactant | acetyl chloride | 0.24 mmol, 26 μL | C(C)(=O)Cl | C2H3ClO
solvent | CH2Cl2 | 1 mL | C(Cl)Cl | CH2Cl2
catalyst | DMAP | 10 mg | CN(C)C=1C=CN=CC1 | C7H10N2
product | 2-Acetylamino-7-chloro-4-[4-(4-fluorophenylaminocarbonyl)piperazin-1-yl]quinoline | C(C)(=O)NC1=NC2=CC(=CC=C2C(=C1)N1CCN(CC1)C(=O)NC1=CC=C(C=C1)F)Cl | C22H21ClFN5O2
